US07291631B2
To a solution of (1H-benzoimidazol-2-yl)-methanol (457 mg, 3.09 mmol) and 4-bromo-2-methyl-2-butene (0.36 mL, 3.09 mmol) in DMF (10 mL) was added DIPEA (0.69 mL, 3.70 mmol) at 60° C. overnight and in the morning, the mixture was cooled and concentrated. The residue was dissolved in saturated NaHCO3 (20 mL) and extracted with CH2Cl2 (3×30 mL). The combined organic layers were dried (MgSO4), filtered, and concentrated to afford a brown oil. Purification by flash column chromatography on silica gel using 2% MeOH/CH2Cl2 afforded [1-(3-methyl-but-2-enyl)-1H-benzoimidazol-2-yl]-methanol as a pale yellow solid (241 mg, 36%). 1H NMR (CDCl3) δ 1.72 (s, 3H), 1.87 (s, 3H), 4.80 (d, 2H, J=6.6 Hz), 4.86 (s, 2H), 5.21 (td, 1H, J=6.0, 1.2 Hz), 7.19-7.23 (m, 3H), 7.65-7.68 (m, 1H).

reactant | (1H-benzoimidazol-2-yl)-methanol | 3.09 mmol, 457 mg | N1C(=NC2=C1C=CC=C2)CO | C8H8N2O
reactant | 4-bromo-2-methyl-2-butene | 3.09 mmol, 0.36 mL | BrCC=C(C)C | C5H9Br
reactant | DIPEA | 3.70 mmol, 0.69 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | [1-(3-methyl-but-2-enyl)-1H-benzoimidazol-2-yl]-methanol | 241 mg, 36% | CC(=CCN1C(=NC2=C1C=CC=C2)CO)C | C13H16N2O
